data/mechanism_extracts/JACS/10.1021_jacs.4c01690.json
{"doi": "10.1021_jacs.4c01690", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoinduced palladium-catalyzed three-component asymmetric carboamination of 1,3-dienes with C(sp3)-H substrates and amines to give chiral allylic amines", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "direct_SET"], "electrochemical_role": null, "key_intermediates": [{"name": "excited-state Pd(0)Ln*", "smiles": null, "role": "reactive"}, {"name": "aryl radical / Pd(I) pair from ArBr SET reduction", "smiles": null, "role": "transient"}, {"name": "alkyl radical (from HAT on C(sp3)-H substrate, e.g. benzyl radical)", "smiles": "[CH2]c1ccccc1", "role": "reactive"}, {"name": "allyl radical intermediate III from radical addition to 1,3-diene", "smiles": null, "role": "reactive"}, {"name": "pi-allyl Pd(II) complex IV", "smiles": null, "role": "reactive"}, {"name": "direct aryl-diene addition side product 105", "smiles": null, "role": "off_pathway"}], "electron_flow": "Blue-light excited Pd(0)Ln* reduces ArBr by single-electron transfer to give an aryl radical and LnPd(I)Br; the aryl radical abstracts a C(sp3)-H hydrogen (HAT) to generate an alkyl radical, which adds to the 1,3-diene to give an allyl radical that recombines with Pd(I) to form a pi-allyl Pd(II) complex, finally undergoing nucleophilic allylic substitution by the amine to release product and regenerate Pd(0).", "rate_determining_step": "Intermolecular hydrogen atom transfer (HAT) from the C(sp3)-H substrate to the aryl radical (KIE = 1.9)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed; TEMPO-aryl adduct 101 and TEMPO-benzyl adduct 102 detected by HRMS, supporting aryl and benzyl radical intermediates"}, {"name": "trans-1-phenyl-2-vinylcyclopropane (103, radical clock)", "smiles": "C(=C)C1CC1/C=C/c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 104 formed in 31% yield, 64% ee, supporting radical addition to the alkene"}, {"name": "D8-toluene (D8-1a)", "smiles": "[2H]c1c([2H])c([2H])c(C([2H])([2H])[2H])c([2H])c1[2H]", "purpose": "KIE", "observation": "Parallel KIE kH/kD = 1.9, implicating HAT in the turnover-limiting step"}, {"name": "Ir(ppy)3 (photosensitizer swap)", "smiles": null, "purpose": "redox_probe", "observation": "No product formed when used in place of Pd catalyst, indicating Pd is essential beyond simple photosensitization"}, {"name": "dark / no light control", "smiles": null, "purpose": "other", "observation": "No product even at 100 °C, confirming photoexcitation requirement"}, {"name": "omission of ArBr or Pd/L", "smiles": null, "purpose": "other", "observation": "No product, confirming both Pd catalyst and aryl bromide oxidant are required"}], "evidence_types_used": ["KIE", "H/D_labeling", "radical_clock", "intermediate_trap_TEMPO", "on/off_light_or_current", "isolation_of_intermediate", "crossover"], "evidence_strength": "strong", "notes": "Bulky 2,6-di-tert-butyl-substituted aryl bromides are used to suppress direct aryl-radical addition to the diene (side product 105), favoring the HAT pathway. Pi-allyl Pd(II) intermediate IV detected by HRMS. Chirality is set by chiral phosphine ligand (e.g., BINAP/xyl-BINAP) during nucleophilic attack on the pi-allyl Pd(II) complex."}
